US07294627B2
A suspension of 1-t-butoxycarbonyl-4-(2,3,5,6-tetrachloropyridin-4-ylaminomethyl)piperidine (18.5 g, 43.1 mmol), sodium acetate (21.2 g, 259 mmol) and 5% palladium on activated carbon (9.17 g, 4.31 mmol) in ethanol (340 mL)/methanol (170 mL) is stirred rapidly under 1 atmosphere of hydrogen for 20 hours. After the atmosphere of hydrogen is replaced with argon the mixture is filtered through a bed of Celite™ washing with methanol. The mixture is concentrated in vacuo and the residue is taken into chloroform and saturated sodium bicarbonate solution. The phases are separated and the aqueous phase is extracted into chloroform (×2). The combined organic extracts are dried (sodium sulfate), filtered and concentrated in vacuo. The residue is taken into methanol (1.20 L) and hydrogen chloride gas is passed through the solution maintaining <20° C. The mixture is kept at this temperature for 7 hours before it is concentrated in vacuo giving 4-(pyridin-4-ylaminomethyl)piperidine hydrochloride.

reactant | 1-t-butoxycarbonyl-4-(2,3,5,6-tetrachloropyridin-4-ylaminomethyl)piperidine | 43.1 mmol, 18.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=C(C(=NC(=C1Cl)Cl)Cl)Cl | C16H21Cl4N3O2
reactant | sodium acetate | 259 mmol, 21.2 g | C(C)(=O)[O-].[Na+]
reactant | methanol | 170 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 4.31 mmol, 9.17 g | [Pd] | Pd
solvent | ethanol | 340 mL | C(C)O | C2H6O
product | 4-(pyridin-4-ylaminomethyl)piperidine hydrochloride | Cl.N1=CC=C(C=C1)NCC1CCNCC1 | InChI=1S/C11H17N3.ClH/c1-5-12-6-2-10(1)9-14-11-3-7-13-8-4-11;/h3-4,7-8,10,12H,1-2,5-6,9H2,(H,13,14);1H
